US07495006B2
5-Fluoro-1-[cis-3-(hydroxyethyl)cyclobutyl]uracil
In a 10 mL flask with AlCl3 (0.81 g, 6.2 mmol) inside, dry anisole 3 mL was added under argon to give a light yellow solution. In another flask with N3-PMB -5-fluoro-1-[cis-3-(benzyloxyethyl)cyclobutyl]uracil (0.27 g, 0.62 mmol) inside, dry anisole 2 mL was added, after which time AlCl3 solution was added to it slowly at room temperature by syringe pump. After addition finishes, the mixture was cooled to 0° C. and dry MeOH was added slowly to give a colorless solution at the end. Then the solvents were removed and the product was purified by silica gel flash chromatography (CH2Cl2:MeOH=20:1) to give a white solid (73.7 mg, 53.4%) combined with some three-membered ring by-products. 1H NMR (CD3OD, 300 MHz): δ 1.68-1.74 (m, 2H), 1.86-1.95 (m, 2H), 2.11-2.20 (m, 1H), 2.48-2.55 (m, 2H), 3.52-3.59 (m, 2H), 4.57-4.69 (m, 1H), 7.90-7.93 (d, J=6.9, 1H). 13C NMR (CDCl3, 100 MHz): δ 10.02, 10.93, 15.94, 18.55, 26.78, 36.15, 37.49, 40.11, 47.47, 53.57, 61.10, 62.87, 127.81, 128.14, 131.01, 131.35, 140.70, 143.01, 151.84, 152.19, 160.41. MS (FAB): expected for C10H13FN2O3 (M+H)+ 229.22. Found 229.09835. IR (neat) νmax 3411, 3187, 3063, 2934, 1697, 1473, 1357, 1272, 1243, 1043, 899, 807, 751, 704.

reactant | AlCl3 | 6.2 mmol, 0.81 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | anisole | 3 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | N3-PMB 5-fluoro-1-[cis-3-(benzyloxyethyl)cyclobutyl]uracil | 0.62 mmol, 0.27 g | N(=[N+]=[N-])CC1=CC=C(OC)C=C1.FC=1C(NC(N(C1)[C@@H]1C[C@@H](C1)CCOCC1=CC=CC=C1)=O)=O
reactant | anisole | 2 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | MeOH | CO | CH4O
product | 5-Fluoro-1-[cis-3-(hydroxyethyl)cyclobutyl]uracil | 73.7 mg, 53.4% | FC=1C(NC(N(C1)[C@@H]1C[C@@H](C1)CCO)=O)=O | C10H13FN2O3
